US08247556B2
Step B Preparation of N-(4,4-dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-2-[(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)amino]nicotinamide
4,4-Dimethyl-7-({2-[(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)-amino]-pyridine-3-carbonyl}-amino)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (123 mg, 0.23 mmol) was treated with 10 mL of 1/1 TFA/CH2Cl2 solution and stirred at RT for 1 h. The volatiles were removed under reduced pressure and the residue was purified by flash column chromatography to obtain the titled compound as a white solid. MS (ES+): 427.1 (M+H)+. Calc'd for C25H26N6O—426.22.

reactant | 4,4-Dimethyl-7-({2-[(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)-amino]-pyridine-3-carbonyl}-amino)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 0.23 mmol, 123 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2C(C1)(C)C)NC(=O)C=1C(=NC=CC1)NCC1=CNC2=NC=CC=C21 | C30H34N6O3
reactant | TFA CH2Cl2 | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-(4,4-dimethyl-1,2,3,4-tetrahydroisoquinolin-7-yl)-2-[(1H-pyrrolo[2,3-b]pyridin-3-ylmethyl)amino]nicotinamide | CC1(CNCC2=CC(=CC=C12)NC(C1=C(N=CC=C1)NCC1=CNC2=NC=CC=C21)=O)C | C25H26N6O
